US07534788B2
Step 1: b] 5-Methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester
To a solution of methyl thioglycolate (0.647 mL, 7.14 mmol, 1.1 eq.) in 14 mL of DMSO was added NaH 50% (0.405 g, 10.1 mmol, 1.56 eq.) and the mixture was stirred for 5 Min., before 2-fluoro-5-methoxybenzaldehyde (1.00 g, 6.49 mmol) was added (strongly exothermic). When the internal temperature had reached again 25° C., the reaction mixture was poured onto crashed ice and the precipitate filtered off and dried to obtain 0.199 g of the title compound as off-white solid.

reactant | methyl thioglycolate | 7.14 mmol, 0.647 mL, 1.1 eq. | C(CS)(=O)OC | C3H6O2S
reactant | NaH | 10.1 mmol, 0.405 g, 1.56 eq. | [H-].[Na+]
reactant | 2-fluoro-5-methoxybenzaldehyde | 6.49 mmol, 1.00 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
solvent | DMSO | 14 mL | CS(=O)C | C2H6OS
product | 5-Methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | 0.199 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)OC | C11H10O3S
